US08076326B2
1.1 2,2,2-Trifluoro-1-(4-o-tolyl-piperazin-1-yl)-ethanone
29.9 g of 2,2,2-trifluoroacetic anhydride (104 mmol) were dissolved in 150 mL of dichloromethane, cooled to −20° C., and 20 g of 1-o-tolylpiperazine-1,4-diium chloride (80 mmol)—dissolved in 150 mL of dichloromethane—added dropwise. After stirring for 16 h at room temperature, 400 ml of ice water were added, the organic phase separated, washed twice with water, and the pH adjusted to neutral with 1% aqueous sodium bicarbonate solution. The organic phase was washed with saturated aqueous sodium chloride, dried over sodium sulphate, filtered and the solvent evaporated to yield 21.5 g of product which crystallized upon cooling.

reactant | 2,2,2-trifluoroacetic anhydride | 104 mmol, 29.9 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 1-o-tolylpiperazine-1,4-diium chloride | 80 mmol, 20 g | [Cl-].C1(=C(C=CC=C1)[NH+]1CC[NH2+]CC1)C.[Cl-]
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 2,2,2-Trifluoro-1-(4-o-tolyl-piperazin-1-yl)-ethanone | 21.5 g | FC(C(=O)N1CCN(CC1)C1=C(C=CC=C1)C)(F)F | C13H15F3N2O
